US04489094
4-[[3-(p-Chlorophenyl)propyl]methylamino]benzoic acid, ethyl ester
A mixture of 1.0 g. of ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate, 20 ml. of dry dichloromethane and 2.5 ml. of methane sulfonyl fluoride is stirred for 18 hours, then refluxed for 3 hours. The solution is poured into 30 ml. of water and adjusted to pH 10 with 10N sodium hydroxide. The dichloromethane layer is separated and saved. The aqueous layer is extracted with two 20 ml. portions of dichloromethane. The organic layers are combined, washed with 10 ml. of water, dried over anhydrous magnesium sulfate, and evaporated to yield 1.80 g. of the desired product as a light yellow oil.

reactant | ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate | ClC1=CC=C(C=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H20ClNO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methane sulfonyl fluoride | CS(=O)(=O)F | CH3FO2S
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-[[3-(p-Chlorophenyl)propyl]methylamino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)OCC)C=C1)C | C19H22ClNO2
